US05977105
b) 1-(3-Pyridyl)-5-(2-naphthylthio)-3-pentanone
2-Thionaphthol was added to a solution of 1-(3-pyridyl)-4-penten-3-one (0.200 g) in ethanol (30 ml) followed by stirring overnight at room temperature. The ethanol was removed under reduced pressure and the residue purified by column chromatography over silica eluting with dichloromethane:ethyl acetate (2:1) to give the sub-title compound as a white solid (0.142 g).

reactant | 2-Thionaphthol | C1=CC=C2C=C(C=CC2=C1)S | C10H8S
reactant | 1-(3-pyridyl)-4-penten-3-one | 0.200 g | N1=CC(=CC=C1)CCC(C=C)=O | C10H11NO
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-(3-Pyridyl)-5-(2-naphthylthio)-3-pentanone | 0.142 g | N1=CC(=CC=C1)CCC(CCSC1=CC2=CC=CC=C2C=C1)=O | C20H19NOS
